US09193713B2
Tert-butyl 5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamate
To mixture of 5-tert-butyl-1,3,4-thiadiazol-2-amine (Aldrich) (20.0 g, 127 mmol) and N1,N1,N1,N1-tetramethylethane-1,2-diamine (0.19 mL, 1.27 mmol) in dichloromethane was added di-tertbutyl dicarbonate (30.5 g, 140 mmol). The reaction was stirred at room temperature for 12 h. The mixture was washed with aq. sodium bicarbonate, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography using an Analogix® Intelliflash280™ (SiO2, 0-15% ethyl acetate in hexanes) to give the title product. MS (ESI+) m/z 258 (M+H)+.

reactant | 5-tert-butyl-1,3,4-thiadiazol-2-amine | 127 mmol, 20.0 g | C(C)(C)(C)C1=NN=C(S1)N | C6H11N3S
reactant | di-tertbutyl dicarbonate | 140 mmol, 30.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | Tert-butyl 5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamate | C(C)(C)(C)C1=NN=C(S1)NC(OC(C)(C)C)=O | C11H19N3O2S
